US08211897B2
To (3S)-3-amino-N,4-dicyclopropyl-2-hydroxybutanamide HCl salt (66 mgs, 0.28 mmol) in dichloromethane/N,N-dimethylformamide (10:3, 13 mL) was added (2S,4R)-1-(tert-butoxycarbonyl)-4-(6-ethoxyisoquinolin-1-yloxy)pyrrolidine-2-carboxylic acid (114 mgs, 0.28 mmol), O (7 azabenzotriazol 1 yl) 1,1,3,3 tetramethyl-uronium hexafluorophosphate (HATU) (128 mg, 0.34 mmol) and diisopropylethylamine (0.15 mL, 0.84 mmol). After 1 hour at room temperature, the reaction mixture was diluted with ethyl acetate and washed with 1N HCl (2×), sodium bicarbonate (1×), and brine (1×). The ethyl acetate layer was dried over magnesium sulfate, filtered and evaporated to dryness under reduced pressure to give (2S,4R)-tert-butyl-2-((2S)-1-cyclopropyl-4-(cyclopropylamino)-3-hydroxy-4-oxobutan-2-ylcarbamoyl)-4-(6-ethoxy-isoquinolin-1-yloxy)pyrrolidine-1-carboxylate.

reactant | (3S)-3-amino-N,4-dicyclopropyl-2-hydroxybutanamide HCl salt | 0.28 mmol, 66 mgs | Cl.N[C@H](C(C(=O)NC1CC1)O)CC1CC1
reactant | (2S,4R)-1-(tert-butoxycarbonyl)-4-(6-ethoxyisoquinolin-1-yloxy)pyrrolidine-2-carboxylic acid | 0.28 mmol, 114 mgs | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)OC1=NC=CC2=CC(=CC=C12)OCC)C(=O)O | C21H26N2O6
reactant | (7 azabenzotriazol 1 yl) 1,1,3,3 tetramethyl-uronium hexafluorophosphate | 0.34 mmol, 128 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | diisopropylethylamine | 0.84 mmol, 0.15 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane N,N-dimethylformamide | 13 mL | ClCCl.CN(C=O)C
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2S,4R)-tert-butyl-2-((2S)-1-cyclopropyl-4-(cyclopropylamino)-3-hydroxy-4-oxobutan-2-ylcarbamoyl)-4-(6-ethoxy-isoquinolin-1-yloxy)pyrrolidine-1-carboxylate | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)OC1=NC=CC2=CC(=CC=C12)OCC)C(N[C@@H](CC1CC1)C(C(=O)NC1CC1)O)=O | C31H42N4O7
